US06506901B2
4-((2S)-2-Hydroxy-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propoxy)-phenol
A mixture of (2S)-1-(4-Benzyloxy-phenoxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol (0.20 g, 0.43 mmol) and ammonium formate (0.135 g, 2.15 mmol) in 10 mL of methanol over 0.20 g of 10% palladium on carbon was stirred at ambient temperature for 2 hours. The catalyst was filtered (solka floc) and the filtrate concentrated in vacuo. Crystallization of the crude oil form EtOAc-hexane provided 0.040 g of the title compound as a white solid.

reactant | (2S)-1-(4-Benzyloxy-phenoxy)-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propan-2-ol | 0.43 mmol, 0.20 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H](CNCC2CCN(CC2)CCC(F)(F)F)O)C=C1 | C25H33F3N2O3
reactant | ammonium formate | 2.15 mmol, 0.135 g | C(=O)[O-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.20 g | [Pd] | Pd
product | 4-((2S)-2-Hydroxy-3-{[1-(3,3,3-trifluoro-propyl)-piperidin-4-ylmethyl]-amino}-propoxy)-phenol | 0.040 g | O[C@H](COC1=CC=C(C=C1)O)CNCC1CCN(CC1)CCC(F)(F)F | C18H27F3N2O3
